US04820715
4-Amino-5-chloro-N-[2-(diethylamino)ethyl]-2-(2-propanon-1-yl)oxybenzamide
To a stirred suspension of 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide hydrochloride (5.0 g, 16 mmoles) and potassium carbonate (10.62 g, 77 mmoles) in DMF (25 ml) was added chloroacetone (2.32 g of 90% , 22 mmoles) and the mixture stirred vigorously for 5 hours, followed by pouring into water (130 ml) and filtration to give, after drying, 4.57 g of crude product. This was dissolved in methylene chloride and filtered over a short alumina column, followed by concentration and recrystallization of the residue from toluene to give 4.16 g (78%) of the title compound as white solid, mp 105°-106.5°. The NMR (90 MHz) in CDCl3 gave the following resonances: δ 8.44 (s, 1H); 6.16 (s, 1H); 4.72 (s, 2H); 4.4 (s, 2H); 3.6 (m, 2H); 2.68 (m, 6H); 2.28 (s, 3H); 1.08 (t, 6H).

reactant | 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide hydrochloride | 16 mmoles, 5.0 g | Cl.NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)O
reactant | potassium carbonate | 77 mmoles, 10.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetone | 22 mmoles, 2.32 g | ClCC(C)=O | C3H5ClO
reactant | water | 130 ml | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 4-Amino-5-chloro-N-[2-(diethylamino)ethyl]-2-(2-propanon-1-yl)oxybenzamide | 4.16 g, 78% | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)OCC(C)=O | C16H24ClN3O3
